US09233977B2
Step 3: tert-Butyl 1-acetyl-3-(methylsulfanyl)-4-oxo-6,7-dihydrothieno[3,4-c]pyridine-5(4H)-carboxylate
To a suspension of Cs2CO3 (2.29 g, 7.03 mmol) in DMF (6 mL) at rt was added tert-butyl 2,4-dioxopiperidine-1-carboxylate (0.50 g, 2.35 mmol). The mixture was stirred at rt for 10 min. Carbon disulfide (0.21 mL, 3.5 mmol) was then added and the reaction mixture was stirred at rt for an additional 10 min. After cooling in an ice bath, a solution of chloroacetone (0.19 mL, 2.35 mmol) in DMF (6 mL) was added. After 1 h, a solution of Met (0.16 mL, 2.58 mmol) in DMF (3 mL) was added and the reaction mixture was warmed to rt and stirred overnight. The mixture was quenched with water (25 mL) and vigorously stirred for 10 h. The resulting mixture was concentrated in vacuo to remove DMF, partitioned between CH2Cl2 and water and filtered. The filtrate was washed with water, dried (Na2SO4) and concentrated. Purification by silica gel chromatography (gradient elution, 0-30% EtOAc/hexanes) afforded the title compound. LRMS (ESI) m/z 342.0 [(M+H)+; calcd for C15H19NO4S2: 342],

reactant | Cs2CO3 | 7.03 mmol, 2.29 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tert-butyl 2,4-dioxopiperidine-1-carboxylate | 2.35 mmol, 0.50 g | O=C1N(CCC(C1)=O)C(=O)OC(C)(C)C | C10H15NO4
reactant | Carbon disulfide | 3.5 mmol, 0.21 mL | C(=S)=S | CS2
reactant | chloroacetone | 2.35 mmol, 0.19 mL | ClCC(C)=O | C3H5ClO
reactant | Met | 2.58 mmol, 0.16 mL | N[C@@H](CCSC)C(=O)O | C5H11NO2S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 1-acetyl-3-(methylsulfanyl)-4-oxo-6,7-dihydrothieno[3,4-c]pyridine-5(4H)-carboxylate | C(C)(=O)C=1SC(=C2C(N(CCC21)C(=O)OC(C)(C)C)=O)SC | C15H19NO4S2
